US06034150
Synthesis of Hydroxy Methylmaleimide (HMMI)
Maleimide (10 g, 0.103 mol) was added to 10 mL of a 37% solution of formaldehyde and 0.31 mL of a 5% solution of NaOH was added. Within 10 minutes all of the maleimide had dissolved and an exothermic reaction proceeded. The solution was stirred for 2 hours where white crystals were observed. The solution was placed in a freezer overnight and the resulting crystals filtered and washed with ice cold ethanol and diethyl ether. The white crystals were purified twice by sublimation. See P. O. Tawney, R. H. Snyder, R. P. Conger, K. A. Leibbrand, C. H. Stiteler, and A. R. Williams J. Org. Chem. 26, 15 (1961).m.p. 104-106° C. (9.77 g, 74.6%). 1H-NMR (Acetone-d6, δ, ppm): 4.96 (2H, --CH2 --, s), 5.33 (1H, --OH, s), 6.93 (2H, --CH=CH--, s). 13C--NMR (Acetone-d6, δ, ppm): 60.9 (1C, --CH2 --), 135.6 (2C, --CH=CH--), 173.1 (1C, --C=O).

reactant | Maleimide | 0.103 mol, 10 g | C1(C=CC(N1)=O)=O | C4H3NO2
reactant | formaldehyde | C=O | CH2O
reactant | NaOH | [OH-].[Na+]
product | Hydroxy Methylmaleimide | OCC=1C(=O)NC(C1)=O | C5H5NO3
